US09353104B2
Step A: (4-methoxybenzyl)hydrazine hydrochloride (2)
A 250 mL round bottom flask was charged with hydrazine hydrate (4 g, 80 mmol) and EtOH (30 mL). To the above solution was added dropwise a solution of 4-methoxybenzylchloride (1.25 g, 8 mmol) in EtOH (3 mL) at room temperature. The resulting mixture was stirred at 90° C. for 2 h. Then the reaction mixture was concentrated in vacuo then re-dissolved in EtOH (15 mL). The solution was acidified with 5 M HCl (12 mL) at 0° C. The resulting precipitate was collected by filtration and dried to afford the title compound as a white solid. LRMS m/z (M+H) 153.1 found, 153.1 required.

reactant | hydrazine hydrate | 80 mmol, 4 g | O.NN
reactant | 4-methoxybenzylchloride | 8 mmol, 1.25 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOH | 30 mL | CCO | C2H6O
product | (4-methoxybenzyl)hydrazine hydrochloride | Cl.COC1=CC=C(CNN)C=C1 | InChI=1S/C8H12N2O.ClH/c1-11-8-4-2-7(3-5-8)6-10-9;/h2-5,10H,6,9H2,1H3;1H
